US08633186B2
2-Nitro-6-(tetrahydro-2H-pyran-4-yloxy)benzonitrile
Prepared as in Example 166d from 2,6-dinitrobenzonitrile and tetrahydro-2H-pyran-4-ol in 100% yield as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ 1.69 (m, 2H), 2.03 (m, 2H), 3.56 (m, 2H), 3.87 (m, 2H), 4.98 (sept, J=3.8 Hz, 1H), 7.90 (m, 3H).

reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | tetrahydro-2H-pyran-4-ol | O1CCC(CC1)O | C5H10O2
product | 2-Nitro-6-(tetrahydro-2H-pyran-4-yloxy)benzonitrile | 100% yield | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)OC1CCOCC1 | C12H12N2O4
